US09376442B2
Ethyl 4-[2-(cyclopropylmethoxy)-4-fluorophenyl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylate
Starting from 4-(2-Cyclopropylmethoxy-4-fluoro-phenyl)-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid ethyl ester (example D.a2) and commercially available (2-chloromethoxy-ethyl)trimethyl-silane the title compound is prepared as pale yellow viscous oil.

reactant | 4-(2-Cyclopropylmethoxy-4-fluoro-phenyl)-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(NC2=C1N=CN=C2C2=C(C=C(C=C2)F)OCC2CC2)C | C20H20FN3O3
reactant | (2-chloromethoxy-ethyl)trimethyl-silane | ClCOCC[Si](C)(C)C | C6H15ClOSi
product | Ethyl 4-[2-(cyclopropylmethoxy)-4-fluorophenyl]-6-methyl-5-{[2-(trimethylsilyl)ethoxy]methyl}-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylate | C1(CC1)COC1=C(C=CC(=C1)F)C=1C2=C(N=CN1)C(=C(N2COCC[Si](C)(C)C)C)C(=O)OCC | C26H34FN3O4Si
